US07423159B2
A mixture of 2-(4-nitrophenyl)ethanethioamide (0.50 g), 1-bromo-2-propanone (0.43 g) and ethanol (20 mL) was heated under reflux for 1 hr. The reaction mixture was concentrated, and saturated aqueous sodium hydrogen carbonate was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and 4-methyl-2-(4-nitrobenzyl)-1,3-thiazole was obtained as pale-yellow crystals (0.37 g, yield 63%) from a fraction eluted with hexane-ethyl acetate (2:1-1:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 81-82° C.

reactant | 2-(4-nitrophenyl)ethanethioamide | 0.50 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(N)=S | C8H8N2O2S
reactant | 1-bromo-2-propanone | 0.43 g | BrCC(C)=O | C3H5BrO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-methyl-2-(4-nitrobenzyl)-1,3-thiazole | CC=1N=C(SC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C11H10N2O2S
